US07229999B2
5-(4-Fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 11, using 5-bromo-6-chloro-nicotinic acid methylester, 2,2,2-trifluoro-ethanol (commercially available), 4-fluorophenyl-boronic acid (commercially available) and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (m/e): 413.1 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
reactant | 4-fluorophenyl-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | FC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC(F)(F)F | C20H20F4N2O3
